US05840727
To a flask charged with sodium borohydride (1.5 g, 39.4 mmol) under nitrogen and chilled to 10° C. was added, slowly, a solution of 1-[4-(3-chloropropoxy)-3-hydroxyphenyl]ethanone (6.0 g, 26.2 mmol) dissolved in ethanol-tetrahydrofuran (120 ml, 2:1). After total addition, the ice bath was removed and the reaction was stirred at ambient temperature for 3 hours. An additional amount of sodium a borohydride (0.2 g, 5.3 mmol) was carefully added. After stirring at ambient temperature for one hour, the solvent was removed in vacuo. The resultant solid residue was diluted with water (100 ml) and left overnight. The product was isolated by vacuum filtration yielding 3.8 g. Two consecutive recrystallizations from toluene provided 3.3 g (55%) of 4-(3-chloropropoxy)-3-hydroxy-α-methylbenzene methanol as a light brown solid, m.p.=107°-109° C.

reactant | sodium borohydride | 39.4 mmol, 1.5 g | [BH4-].[Na+]
reactant | 1-[4-(3-chloropropoxy)-3-hydroxyphenyl]ethanone | 26.2 mmol, 6.0 g | ClCCCOC1=C(C=C(C=C1)C(C)=O)O | C11H13ClO3
reactant | sodium | [Na] | Na
reactant | borohydride | 5.3 mmol, 0.2 g | [BH4-]
solvent | ethanol tetrahydrofuran | 120 ml | C(C)O.O1CCCC1
product | 4-(3-chloropropoxy)-3-hydroxy-α-methylbenzene methanol | 3.3 g, 55% | ClCCCOC1=C(C=C(C=C1)C(O)C)O | C11H15ClO3
